US09120777B2
J) Tert-butyl 4-(4-iodo-3-methyl-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate
Tert-butyl 4-(((4-methylphenyl)sulfonyl)oxy)piperidine-1-carboxylate (21.7 g) was added to a mixture of 4-iodo-3-methylpyridin-2(1H)-one (8.98 g) and potassium carbonate (21.1 g) in 1-methoxy-2-(2-methoxyethoxyl)ethane (160 mL) at room temperature. The mixture was stirred at 100 C under nitrogen atmosphere for 22 hours. The mixture was quenched with water at room temperature and extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. Toluene was added to the residue. The mixture was concentrated in vacuo. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate) to give the title compound (12.9 g).

reactant | Tert-butyl 4-(((4-methylphenyl)sulfonyl)oxy)piperidine-1-carboxylate | 21.7 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO5S
reactant | 4-iodo-3-methylpyridin-2(1H)-one | 8.98 g | IC1=C(C(NC=C1)=O)C | C6H6INO
reactant | potassium carbonate | 21.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methoxy-2-(2-methoxyethoxyl)ethane | 160 mL | COCCOCCOC | C6H14O3
product | Tert-butyl 4-(4-iodo-3-methyl-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate | 12.9 g | IC1=C(C(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)C | C16H23IN2O3
